US08669234B2
3-(6-{7-[2-(1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-9,10-dihydro-phenanthren-2-yl}-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester.
Pd(Ph3)4 (20 mg, 0.017 mmol) was added to a mixture 2-[5-(7-bromo-9,10-dihydro-phenanthren-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (173 mg, 0.35 mmol), 3-[6-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-benzoimidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (154 mg, 0.35 mmol), NaHCO3 (103 mg, 1.22 mmol) in 1,2-dimethoxyethane (5 mL) and water (1 mL). The reaction mixture was flushed with nitrogen, heated at 80° C. for 16 hours, and then the volatile component was removed in vacuo. The residue was dissolved in ethyl acetate (100 mL), washed with NaHCO3 solution, water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product 3-(6-{7-[2-(1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-9,10-dihydro-phenanthren-2-yl]-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester as a white solid (150 mg, 59%). m/z 727.4 (M+H)+.

reactant | 2-[5-(7-bromo-9,10-dihydro-phenanthren-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.35 mmol, 173 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2CCC3=CC(=CC=C3C2C=C1)Br | C26H28BrN3O2
reactant | 3-[6-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-benzoimidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.35 mmol, 154 mg | C(C)(C)(C)OC(=O)N1C2CCC(C1C1=NC3=C(N1)C=C(C=C3)B3OC(C(O3)(C)C)(C)C)C2 | C24H34BN3O4
reactant | NaHCO3 | 1.22 mmol, 103 mg | C(=O)(O)[O-].[Na+]
solvent | 1,2-dimethoxyethane | 5 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
product | 3-(6-{7-[2-(1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-9,10-dihydro-phenanthren-2-yl]-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 150 mg, 59% | C(C)(C)(C)OC(=O)N1C2CCC(C1C1=NC3=C(N1)C=C(C=C3)C3=CC=1CCC4=CC(=CC=C4C1C=C3)C=3NC(=NC3)C3N(CCC3)C(=O)OC(C)(C)C)C2 | C44H50N6O4
